US04544401
N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide
To 8 ml of 15% aqueous tetrahydrofuran was added with stirring 0.8 g of mercuric acid oxide and 0.56 ml of borontrifluoride etherate. The mixture was stirred for 20 minutes, and then 0.8 g of N-(4,6-dimethoxypyrimidin-2-yl)-N'-(3-pyridinylsulfonyl)carbamimidothioic acid, methyl ester was added. The slurry was stirred at room temperature for 1 hour, filtered, and the solid was rinsed with 50 ml of water, followed by 40 ml of dichloromethane, and dried to give 0.3 g of the desired product, m.p. 176° C. dec.

reactant | borontrifluoride etherate | 0.56 ml | B(F)(F)F.CCOCC
reactant | N-(4,6-dimethoxypyrimidin-2-yl)-N'-(3-pyridinylsulfonyl)carbamimidothioic acid, methyl ester | 0.8 g | COC1=NC(=NC(=C1)OC)NC(=NS(=O)(=O)C=1C=NC=CC1)SC | C13H15N5O4S2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide | 0.3 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C=1C=NC=CC1 | C12H13N5O5S
